US08309580B2
(1) methyl 2-(methoxymethyl)-5-phenylfuran-3-carboxylate
A mixture of methyl 5-bromo-2-(methoxymethyl)-3-furancarboxylate (3.7 g), phenylboronic acid (2.2 g), tetrakis(triphenylphosphine)palladium(0) (0.9 g), 2N aqueous sodium carbonate solution (18 mL) and 1,2-dimethoxyethane (30 mL) was stirred under reflux overnight under an argon atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 15% ethyl acetate/hexane) to give the title compound (3.2 g, 87%) as an oil.

reactant | methyl 5-bromo-2-(methoxymethyl)-3-furancarboxylate | 3.7 g | BrC1=CC(=C(O1)COC)C(=O)OC | C8H9BrO4
reactant | phenylboronic acid | 2.2 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2N, 18 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | methyl 2-(methoxymethyl)-5-phenylfuran-3-carboxylate | 3.2 g, 87% | COCC=1OC(=CC1C(=O)OC)C1=CC=CC=C1 | C14H14O4
